US07700641B2
Synthesis of N-(2-fluorophenyl)-2-(2′-oxo-5-pyridin-3-ylspiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)acetamide
Following the procedure as described in EXAMPLE 37, and making non-critical variations using 2-(5-bromo-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)-N-(2-fluorophenyl)acetamide to replace 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one, the title compound was obtained (55% yield) was obtained as a white solid: mp 98-100° C.; 1H NMR (300 MHz, CDCl3) δ 8.60-8.53 (m, 2H), 8.14 (dd, 1H), 7.65 (dd, 1H), 7.41 (dd, 1H), 7.32-6.90 (m, 11H), 5.02 (d, 1H), 4.76 (d, 1H), 4.72 (d, 1H), 4.56 (d, 1H); 13C NMR (75 MHz, CDCl3) δ 177.9, 164.8, 160.9, 154.2, 151.0, 147.1, 141.7, 134.2, 131.7, 131.5, 129.9, 129.4, 129.1, 125.1, 124.6, 124.5, 124.2, 124.0, 122.5, 122.2, 115.1, 114.8, 111.0, 109.1, 80.0, 58.1, 44.6; MS (ES+) m/z 466.4 (M+1).

reactant | 2-(5-bromo-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)-N-(2-fluorophenyl)acetamide | BrC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CC(=O)NC1=C(C=CC=C1)F)=O)CO2 | C23H16BrFN2O3
reactant | 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | BrC1=CC2=C(C=C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
product | N-(2-fluorophenyl)-2-(2′-oxo-5-pyridin-3-ylspiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)acetamide | 55% yield | FC1=C(C=CC=C1)NC(CN1C(C2(C3=CC=CC=C13)COC1=C2C=C(C=C1)C=1C=NC=CC1)=O)=O | C28H20FN3O3
